US09315458B2
L) ethyl 3-chloro-2-hydroxy-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)benzoate
To a solution of 3-chloro-2-hydroxy-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)benzoic acid (0.60 g) in dichloromethane (20.0 mL) was added oxalyl chloride (0.29 g) under ice-cooling, and the mixture was stirred at 15° C. for 16 hr. The reaction mixture was added to a solution of triethylamine (2.00 mL) in ethanol (40.0 mL), and the mixture was stirred for 1 hr. The mixture was concentrated under reduced pressure, and the residue was diluted with ethyl acetate. The mixture was washed with 1N hydrochloric acid and saturated aqueous sodium bicarbonate solution, and the organic layer was concentrated under reduced pressure. The residue was purified by flash silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (0.20 g).

reactant | 3-chloro-2-hydroxy-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)benzoic acid | 0.60 g | ClC=1C(=C(C(=O)O)C=C(C1C(F)(F)F)CC1=CC=C(C=C1)N1N=CC=C1)O | C18H12ClF3N2O3
reactant | oxalyl chloride | 0.29 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 2.00 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
solvent | ethanol | 40.0 mL | C(C)O | C2H6O
product | ethyl 3-chloro-2-hydroxy-5-[4-(1H-pyrazol-1-yl)benzyl]-4-(trifluoromethyl)benzoate | 0.20 g | ClC=1C(=C(C(=O)OCC)C=C(C1C(F)(F)F)CC1=CC=C(C=C1)N1N=CC=C1)O | C20H16ClF3N2O3
